US05192642
Bis(cyclopentadienyl)bis[2,3,5,6-tetrafluoro-4-(4-tolylsulfonyloxy)phenyl]titanium
5.1 g (0.010 mol) of bis(cyclopentadienyl)bis(2,3,5,6-tetrafluoro-4-hydroxyphenyl)titanium are suspended in 100 ml of toluene in a sulfation flask under nitrogen as protective gas. 5.7 g (0.030 mol) of toluene-4-sulfonyl chloride are then added. 40 ml of 1N sodium hydroxide solution (0.040 mol) are subsequently added dropwise, and the mixture is stirred for 4 hours at 40° C. After a check of the reaction using thin-layer chromatography, the reaction mixture is allowed to cool. 100 ml of ice-water and 100 ml of ether are then added. The organic phase is separated off and washed several times with a little water until the reaction on pH paper is neutral. The organic phase is dried using magnesium sulfate and evaporated on a vacuum rotary evaporator. An orange-red crystalline product remains which, after recrystallization from toluene, melts at 226°-228° C.

reactant | bis(cyclopentadienyl)bis(2,3,5,6-tetrafluoro-4-hydroxyphenyl)titanium | 0.010 mol, 5.1 g | C1(C=CC=C1)[Ti](C1=C(C(=C(C(=C1F)F)O)F)F)(C1=C(C(=C(C(=C1F)F)O)F)F)C1C=CC=C1
reactant | toluene-4-sulfonyl chloride | 0.030 mol, 5.7 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium hydroxide | 0.040 mol, 1N, 40 ml | [OH-].[Na+]
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Bis(cyclopentadienyl)bis[2,3,5,6-tetrafluoro-4-(4-tolylsulfonyloxy)phenyl]titanium | C1(C=CC=C1)[Ti](C1=C(C(=C(C(=C1F)F)OS(=O)(=O)C1=CC=C(C=C1)C)F)F)(C1=C(C(=C(C(=C1F)F)OS(=O)(=O)C1=CC=C(C=C1)C)F)F)C1C=CC=C1 | InChI=1S/2C13H7F4O3S.2C5H5.Ti/c2*1-7-2-4-8(5-3-7)21(18,19)20-13-11(16)9(14)6-10(15)12(13)17;2*1-2-4-5-3-1;/h2*2-5H,1H3;2*1-5H;
